US05498609
To a solution of 7-chloro-5-(2-hydroxyethyl)-1-[6-(2-chlorobenzoyl-amino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine (3.7 g) in pyridine (50 ml) is added with stirring methanesulfonyl chloride (0.71 ml) under ice-cooling, and the mixture is stirred at room temperature for 3 hours. Water is added to the reaction solution, and the mixture is extracted with ethyl acetate. The extract is washed with successively with diluted hydrochloric acid and water, dried over magnesium sulfate, and evaporated under reduced pressure to remove the solvent. The residue is purified by silica gel column chromatography to give 7-chloro-5-(2-methanesulfonyloxyethyl)-1-[6-(2-chlorobenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine (2.8 g) as colorless amorphous.

reactant | 7-chloro-5-(2-hydroxyethyl)-1-[6-(2-chlorobenzoyl-amino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 3.7 g | ClC=1C=CC2=C(C(CCCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)Cl)=O)=O)CCO)C1 | C25H23Cl2N3O3
reactant | methanesulfonyl chloride | 0.71 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | O | H2O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 7-chloro-5-(2-methanesulfonyloxyethyl)-1-[6-(2-chlorobenzoylamino)nicotinoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 2.8 g | ClC=1C=CC2=C(C(CCCN2C(C2=CN=C(C=C2)NC(C2=C(C=CC=C2)Cl)=O)=O)CCOS(=O)(=O)C)C1 | C26H25Cl2N3O5S
